US07777047B2
ethyl [2-({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)hydrazino](oxo)acetate
To a mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.50 g), 1H-1,2,3-benzotriazol-1-ol (0.24 g) and N,N-dimethylformamide (10 ml) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.30 g) at room temperature, and the mixture was stirred for 10 min. Ethyl hydrazino(oxo)acetate (0.33 g) was added, and the reaction mixture was stirred at room temperature for 2 hr. Water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (0.43 g, yield 63%) as colorless crystals from a fraction eluted with ethyl acetate. melting point 133-134° C.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.50 g | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C14H12N2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.24 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.30 g | Cl.CN(CCCN=C=NCC)C
reactant | Ethyl hydrazino(oxo)acetate | 0.33 g | N(N)C(C(=O)OCC)=O | C4H8N2O3
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl [2-({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)hydrazino](oxo)acetate | 0.43 g, yield 63% | CN(C=1C=CC=C2C=C(NC12)C(=O)NNC(C(=O)OCC)=O)S(=O)(=O)C=1SC=CC1 | C18H18N4O6S2
